US06989462B2
Synthesis of isopropyl 2-chloromethyl-6-methylbenzoate
19.2 g of isopropyl 2,6-dimethylbenzoate are initially charged in 100 ml of carbon tetrachloride admixed at room temperature with 13.3 g of N-chlorosuccinimide and 200 mg of AIBN. The mixture is heated to reflux for 3 h. After the mixture has been cooled, it is filtered with suction, and the succinimide is washed with 20 ml of carbon tetrachloride. The filtrates are combined, and carbon tetrachloride is distilled off in vacuo. 21.8 g of colorless liquid are obtained. The product is distilled under high vacuum (0.05 mbar, 94–97° C.). Yield: 13.9 g (61% of theory; 93.6 area %).

reactant | isopropyl 2,6-dimethylbenzoate | 19.2 g | CC1=C(C(=O)OC(C)C)C(=CC=C1)C | C12H16O2
reactant | N-chlorosuccinimide | 13.3 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | AIBN | 200 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | isopropyl 2-chloromethyl-6-methylbenzoate | 21.8 g | ClCC1=C(C(=O)OC(C)C)C(=CC=C1)C | C12H15ClO2
